US06403607B1
(1) N-(4-Chlorobenzenesulfonyl)-o-phenylenediamine
In a 1-L three-neck flask, o-phenylenediamine (56.13 g) was added to pyridine (350 ml) and the resultant solution was stirred with a stirrer bar to dissolve the compound. The solution was cooled in an ice-water bath, so that the temperature inside the reaction mixture became 2-3° C. 4-Chlorophenylsulfonyl chloride (73.04 g) was dissolved in pyridine (100 ml) and the resultant solution was added dropwise to the aforementioned mixture by using dropping funnel. The reaction temperature was maintained at 10° C. or lower and the dropping step required 70 minutes. The reaction mixture exhibited deep-purplish-red color. Subsequently, the mixture was stirred at 10° C. or lower for 15 minutes. The flask was removed from the ice-water bath and returned to room temperature. The mixture was further stirred for one hour. The solvent, pyridine, was removed with an aspirator under reduced pressure at 50° C. and the residue was diluted in ethyl acetate (1 L). The resultant solution was transferred to a 2-L separating funnel and water (0.5 L) and an adequate volume of a 2N hydrochloride solution were added thereto. The volume of the 2N hydrochloride solution to be added was regulated so that the pH of the washing solution became 2-3. The washing solution was extracted with ethyl acetate (0.3 L×2). The thus-obtained ethyl acetate layer was washed with saturated brine (0.3 L×3) and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and red crystals were precipitated. Ethyl acetate (0.3 L) was added to the thus-obtained crystals to dissolve the crystals. Subsequently, the crystals were re-crystallized from the mixture of solvents (hexane:ethyl acetate=10:1). The thus-produced crystals were collected through suction-filtration, washed with the same solvent mixture, and air-dried, to thereby yield pale-yellow crystals (79.28 g). The mother liquid for re-crystallization and the washing solution were combined. Subsequently, the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (30 ml), and the mixture of solvents (100 ml) (hexane:ethyl acetate=10:1) was added thereto, followed by re-crystallization. The thus-obtained crystals were subjected to suction-filtration, washed, and air-dried, to thereby produce pale-yellow crystals (6.41 g). Through the second re-crystallization, the target product (85.69 g) was obtained.

reactant | o-phenylenediamine | 56.13 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 4-Chlorophenylsulfonyl chloride | 73.04 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-Chlorobenzenesulfonyl)-o-phenylenediamine | 85.69 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)N | C12H11ClN2O2S
